US07834013B2
Enantiomerically Enriched N-(cyclopropylmethyl)-2-{4-[(3-phenoxybenzyl)amino]phenyl}cyclopropanecarboxamide (IV-21)
To a mixture of (+)-(trans)-2-{4-[(3-phenoxybenzyl)amino]phenyl}cyclopropanecarboxylic acid (III-3b) (0.09 g, 0.25 mmol) in dichloromethane (2 mL) and DMF (1 mL) was added HATU (0.14 g, 0.37 mmol). The mixture was stirred for 15 min followed by addition of aminomethylcyclopropane (0.03 g, 0.37 mmol). The solution stirred for 4 h after which the dichloromethane was removed via rotavap. Sat. NaHCO3 and ethyl acetate were added and the organic layer separated and washed with H2O, dried over MgSO4, filtered and concentrated. The crude material was purified on silica gel eluting with an increasing gradient from hexanes to 30% ethyl acetate/hexanes to give the title compound as a white powder (0.01 g, 11%). 1H NMR (400 MHz, CDCl3) δ 7.34-7.28 (m, 3H), 7.10-7.08 (m, 2H), 7.02-6.98 (m, 3H), 6.92-6.89 (m, 3H), 6.55 (d, J=8.3 Hz, 2H), 5.68 (s, 1H), 4.29 (s, 2H), 4.01 (s, 1H), 3.15-3.12 (m, 2H), 2.39 (s, 1H), 1.57-1.46 (m, 2H), 1.17-1.14 (m, 1H), 0.95 (s, 1H), 0.51 (d, J=7.7 Hz, 2H), 0.20 (d, J=4.6 Hz, 2H). ES-MS m/z 413.3 (MH+).

reactant | (+)-(trans)-2-{4-[(3-phenoxybenzyl)amino]phenyl}cyclopropanecarboxylic acid | 0.25 mmol, 0.09 g | O(C1=CC=CC=C1)C=1C=C(CNC2=CC=C(C=C2)[C@H]2[C@@H](C2)C(=O)O)C=CC1 | C23H21NO3
reactant | HATU | 0.37 mmol, 0.14 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | aminomethylcyclopropane | 0.37 mmol, 0.03 g | NCC1CC1 | C4H9N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(cyclopropylmethyl)-2-{4-[(3-phenoxybenzyl)amino]phenyl}cyclopropanecarboxamide | 0.01 g, 11% | C1(CC1)CNC(=O)C1C(C1)C1=CC=C(C=C1)NCC1=CC(=CC=C1)OC1=CC=CC=C1 | C27H28N2O2
